US04563533
210 Parts of sulfuryl chloride were added within about 2 hours at a temperature of 35°-40° C. to a stirred mixture of 186.5 parts of 2-chlorophenylthiourea, 500 parts of toluene, 300 parts of chlorobenzene and 11 parts of sodium carbonate. The gas development being terminated, 250 parts of water were added, the solvent mixture was distilled off with steam, and the remaining aqueous phase was combined with 500 parts of 30% hydrochloric acid. Filtration from the undissolved matter was carried out at about 90° C., the filtrate was cooled to about 20° C., and the free amine was precipitated from the 2-amino-4-chlorobenzothiazole dissolved as hydrochloride by adding excess sodium hydroxide solution until a final pH of 8.5-9.0 was adjusted. The product was suction-filtered, washed to neutral with water, and dried. 170 Parts of 2-amino-4-chlorobenzothiazole having a melting point of 199°-200° C. (92.4% of th.) were obtained.

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-chlorophenylthiourea | ClC1=C(C=CC=C1)NC(=S)N | C7H7ClN2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-amino-4-chlorobenzothiazole | NC=1SC2=C(N1)C(=CC=C2)Cl | C7H5ClN2S
